US07253286B2
4-[4-(4-Amino-3-fluorophenoxy)-6-cyanoquinolin-7-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester
After adding dimethylformamide (4 ml), tert-butyl 4-(bromomethyl)-1-piperidine carboxylate (708 mg) and potassium carbonate (467 mg) to 4-(4-amino-3-fluorophenoxy)-6-cyano-7-hydroxyquinoline (500 mg), the mixture was heated at 50° C. for 4 hours. Water was added to the reaction solution, extraction was performed with ethyl acetate and the organic layer was washed with water and saturated brine in that order and then dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The obtained crude product was purified by silica gel column chromatography (n-hexane:ethyl acetate) to obtain the title compound (398 mg).

reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | tert-butyl 4-(bromomethyl)-1-piperidine carboxylate | 708 mg | BrCC1CCN(CC1)C(=O)OC(C)(C)C | C11H20BrNO2
reactant | potassium carbonate | 467 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-amino-3-fluorophenoxy)-6-cyano-7-hydroxyquinoline | 500 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)O)C=C1)F | C16H10FN3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-[4-(4-Amino-3-fluorophenoxy)-6-cyanoquinolin-7-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | 398 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)N)F)C#N | C27H29FN4O4
